US05045552
2-{4-(3-Methoxypropoxy)-3-methylpyridine-2-yl}methylsulfinyl-1-methylbenzimidazole
0.25 g of 2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio-1-methylbenzimidazole was dissolved in 20 ml of dichloromethane to obtain a solution. 0.18 g of 80% m-chloroperbenzoic acid was added to the solution at -50° C. The obtained mixture was stirred for one hour, followed by the addition of 0.14 g of triethylamine and 20 ml of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was stirred at a room temperature for one hour. The dichloromethane layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate twice, dried over magnesium sulfate and filtered. The filtrate was concentrated to obtain a residue. This residue was purified by silica gel column chromatography to obtain 0.12 g of the title compound as a pale yellow crystal.

reactant | 2-{4-(3-methoxypropoxy)-3-methylpyridine-2-yl}methylthio-1-methylbenzimidazole | 0.25 g | COCCCOC1=C(C(=NC=C1)CSC1=NC2=C(N1C)C=CC=C2)C | C19H23N3O2S
reactant | m-chloroperbenzoic acid | 0.18 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-{4-(3-Methoxypropoxy)-3-methylpyridine-2-yl}methylsulfinyl-1-methylbenzimidazole | 0.12 g | COCCCOC1=C(C(=NC=C1)CS(=O)C1=NC2=C(N1C)C=CC=C2)C | C19H23N3O3S
